US04560685
6-Benzylthio-4,7-dimorpholino-2-piperazino-pteridine
A solution of 0.35 g of sodium and 2 ml (about 0.017 mol) of benzylmercaptan in 100 ml of dioxane was added to a solution of 6.3 g (0.015 mol) of 6-chloro-4,7-dimorpholino-2-piperazino-pteridine in 200 ml of dioxane, and the resulting mixture was refluxed for about 2 hours. The solvent was substantially distilled off in vacuo and the residue was taken up in about 200 ml of water. After it had solidified, the reaction product was suction-filtered off, washed with water and dried in vacuo at room temperature.

reactant | sodium | 0.35 g | [Na] | Na
reactant | benzylmercaptan | about 0.017 mol, 2 ml | C(C1=CC=CC=C1)S | C7H8S
reactant | 6-chloro-4,7-dimorpholino-2-piperazino-pteridine | 0.015 mol, 6.3 g | ClC=1N=C2C(=NC(=NC2=NC1N1CCOCC1)N1CCNCC1)N1CCOCC1 | C18H25ClN8O2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 6-Benzylthio-4,7-dimorpholino-2-piperazino-pteridine | C(C1=CC=CC=C1)SC=1N=C2C(=NC(=NC2=NC1N1CCOCC1)N1CCNCC1)N1CCOCC1 | C25H32N8O2S
